US04540695
A mixture of 9-amino-9-acetyl-6,7,11-trihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione hydrochloride (130 mg), sodium carbonate (400 mg), a saturated sodium bicarbonate solution (20 ml), chloroform (10 ml) and tetrahydrofuran (10 ml) was stirred vigorously, and acetyl chloride (200 mg) was dropwise added thereto at room temperature. After the dropwise addition was completed, stirring was continued for 30 minutes. The reaction mixture was shaken with chloroform (50 ml). The chloroform layer was separated, washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from diethyl ether to give 9-acetyl-9-acetamino-6,7,11-trihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione. M.P., 240°-248° C.

reactant | 9-amino-9-acetyl-6,7,11-trihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione hydrochloride | 130 mg | Cl.NC1(CC(C=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)O)C(C)=O
reactant | sodium carbonate | 400 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
reactant | acetyl chloride | 200 mg | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-acetyl-9-acetamino-6,7,11-trihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione | C(C)(=O)C1(CC(C=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)O)NC(=O)C | C22H19NO7
